US06207665B1
To a solution of 4-(4-fluorobenzyl)-1-((4-chlorophenoxy)methyl)carbonyl-3-(2-hydroxy-2-phenylethyl)piperazine (0.051 g, 0.11 mmol) in anhydrous ether (5 mL) was added sodium hydride (0.006 g, 0.15 mmol). The resultant mixture was stirred at ambient temperature for 30 minutes, then methyl iodide (0.016 g, 0.11 mmol) was added. Once thin layer chromatography analysis showed complete consumption of 4-(4-fluorobenzyl)-1-((4-chlorophenoxy)methyl)carbonyl-3-(2-hydroxy-2-phenylethyl)piperazine had occurred, the mixture was poured into water and extracted with two portions of ether. The combined organic extracts were dried over MgSO4, filtered and concentrated in vacuo to afford 0.046 g of 4-(4-fluorobenzyl)-1-((4-chlorophenoxy)methyl)carbonyl-3-(2-methoxy-2-phenylethyl)piperazine as a yellow oil: NMR (CDCl3) 7.3 (m, 9), 7.0 (m, 2), 6.9 (m, 2), 4.8 (m, 3), 4.2 (m, 2), 3.9-3.2 (m, 5), 3.1 (d, 2), 3.0 (s, 1), 2.9 (s, 1), 2.6 (m, 1), 2.4 (m, 1), 1.9 (m, 1) ppm.

reactant | 4-(4-fluorobenzyl)-1-((4-chlorophenoxy)methyl)carbonyl-3-(2-hydroxy-2-phenylethyl)piperazine | 0.11 mmol, 0.051 g | FC1=CC=C(CN2C(CN(CC2)C(=O)COC2=CC=C(C=C2)Cl)CC(C2=CC=CC=C2)O)C=C1 | C27H28ClFN2O3
reactant | sodium hydride | 0.15 mmol, 0.006 g | [H-].[Na+]
reactant | methyl iodide | 0.11 mmol, 0.016 g | CI | CH3I
solvent | ether | 5 mL | CCOCC | C4H10O
product | 4-(4-fluorobenzyl)-1-((4-chlorophenoxy)methyl)carbonyl-3-(2-methoxy-2-phenylethyl)piperazine | 0.046 g | FC1=CC=C(CN2C(CN(CC2)C(=O)COC2=CC=C(C=C2)Cl)CC(C2=CC=CC=C2)OC)C=C1 | C28H30ClFN2O3
